2172-10-28 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -gave 2g ca for ica of 0.79
   -changed multivitamins to nephrocaps per pharmacy
   -renal recommended don't correct metabolic acidosis too fast and def
   don't over correct (concern for seizure). Also don't treat hypocalcemia
   unless symptomatic out of concern for hypercalcemia in next couple days
   -CK down significantly by noon
   -HIV neg and HBV surface antibody pos, core antibody and s antigen neg
   -Head CT: IMPRESSION: No evidence of acute intracranial abnormalities.
   -parasite smear neg
   -tolerating POs so switched to oxycodone for pain, dced fentanyl. pt
   says "percocet does nothing for me" and wanted to be back on fentanyl,
   did not want to try IV morphine but agreed to try in the am as I told
   him I didn't think you could get IV fentanyl on the floor.
   -as of 8p still putting out minimal uop as compared with what is going
   in (~40/300 per hour). following pt for complaints of sob and also
   watching sats. will back off on fluids prn
   -pt requesting pain consult for am.
   -IVF off at 2am because O2sats falling a little. still only putting out
   ~40cc/hr.
   -IVF back on at 6am after seeing cxr at 150 cc/hr per [**Doctor First Name **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2172-10-28**] 03:30 AM
   Fentanyl - [**2172-10-28**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-10-28**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 77 (68 - 85) bpm
   BP: 122/63(77) {122/20(52) - 165/100(108)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                 11,588 mL
                                                                    811 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  7,868 mL
                                                                    811 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    275 mL
   Urine:
                                                                    820 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,668 mL
                                                                    536 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///15/
   Physical Examination
   Gen: calm, c/o severe muscle pain
   Cv: rrr
   Resp: crackles at bases b/l
   Abd: soft, NT
   Ext: no edema
   Labs / Radiology
   64 K/uL
   11.1 g/dL
   109 mg/dL
   11.8 mg/dL
   15 mEq/L
   4.2 mEq/L
   118 mg/dL
   95 mEq/L
   129 mEq/L
   31.1 %
   6.3 K/uL
        [image002.jpg]
                             [**2172-10-27**]  02:45 AM
                             [**2172-10-27**]  12:31 PM
                             [**2172-10-27**]  06:20 PM
                             [**2172-10-27**]  10:15 PM
                             [**2172-10-28**]  04:14 AM
   WBC
   6.4
   6.3
   Hct
   34.4
   31.1
   Plt
   68
   64
   Cr
   11.4
   11.4
   11.8
   11.6
   11.8
   Glucose
   78
   105
   137
   107
   109
   Other labs: PT / PTT / INR:11.0/24.3/0.9, CK / CKMB /
   Troponin-T:[**Numeric Identifier 10044**]//, ALT / AST:949/584, Alk Phos / T Bili:103/1.0,
   Differential-Neuts:84.3 %, Lymph:9.7 %, Mono:3.5 %, Eos:2.2 %,
   Fibrinogen:396 mg/dL, Albumin:3.2 g/dL, LDH:1814 IU/L, Ca++:4.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:7.7 mg/dL
   Imaging: head CT neg
   Microbiology:  NGTD
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RHABDOMYOLYSIS
   ASSESSMENT & PLAN: 34 y.o. M tranferred from [**Hospital3 2755**] with new
   onset acute renal failure (Cr 11), CK 20,000, and elevated LFTs.
   .
   # Rhabdomyolysis: Pt with elevated CK and elevated MB, ARF. Consider as
   sequaelae of recent bike accident and/or compartment syndrome. Also may
   have contribution from cocaine use with induced hyperthermia. Also on
   differential, consider HIV given his risk factors, septicimia, and
   erlichiosis given that he is from [**Location (un) 1479**] (but parasite smear at OSH
   negative).
   - trend CK, MB q 12 hours
   - q6 hours serum potassium, calcium, phosphate, and creatinine with
   repletion PRN
   - replete lytes aggressively, except calcium which we are not repleting
   unless symptomatic
   - will discuss with renal  turning down fluids considering worsening
   pulmonary status with 10 + liters since admission and
      minimal urine output
 will likely require dialysis, will also
   discuss possibility of Lasix challenge
   - HIV neg
   - f/u blood cultures (currently NGTD)
   - f/u blood smear for parasites and send erlichiosis serology which is
   associated with severe rhabdo
   .
   # Acute Renal Failure: likely [**3-16**] rhabdo
   - appreciate renal consult
   - parasite smear negative
   .
   # Acute hepatitis: Liver enzymes elevated. Ddx consists of
   rhabdomyolosis (likely), hepatitis B/C given polysubstance abuse
   history, severe babesiosis. Less likely acetaminophen toxicity and
   alcoholic hepatitis given negative tox screen.
   - treat rhabdo as above
   - send hepatitis B and C serologies negative
   - trend LFTs: going in the right direction
   - RUQ ultrasound unremarkable
   .
   # Anemia: Hct 33.2 on admit with MCV 89. At OSH, Hct 38. Anemia is
   likely dilutional. am hct 31. will continue to trend and keep active
   T+S.
   - direct bilirubin  and haptoglobin reassuring for hemolytic anemia
   -  fibrinogen, FDP reassuring for DIC
   - send HIV negative
   - parasite smear neg x2 (here and OSH)
   - active T&S
   - monitor Hcts
 drop likely dilutional
   .
   # Pain: pt c/o significant diffuse muscle pain: unclear etiology, would
   not expect rhabdo pain to be so severe. Could also consider opioid
   withdrawal or malingering as pt not tachycardic or hypertensive when
   endorsing [**11-21**] pain.
   -consider pain consult
   -currently getting fentanyl 25 q 1h which is equiv to 2.5 of morphine q
   1h per pharmacy, will convert to MS Contin 45 [**Hospital1 7**] with MSIR 15mg q4 PRN
   breakthrough
   .
   # Anion Gap Metabolic Acidosis: Likely secondary to uremia. Lactate
   1.0. Ethanol negative. ASA negative.
   - appreciate renal consult
   - monitor serial lytes, ABGs
   .
   # Hyponatremia: Given history of nausea and vomiting over 5 days,
   hyponatremia may be due to hypovolemia.  Improved to 129 from 120 on
   admission
   - monitor serial Na
   - continue IVF resuscitation
   .
   # Thrombocytopenia: Ddx consists of liver disease, splenic
   sequestration, drug-related, alcohol use, babesiosis, HIV
   - transfuse plt if decreasing <20K or bleeding
   - monitor plt count
   - f/u erlichia, babesiosis, HIV
   .
   # Polysubstance Use: Pt actively using cocaine, and alcohol.
   - SW consult  versus addiction consult
   - MVI, thiamine, folate
   - not [**Doctor Last Name 392**] on ciwa scale
   - will give valium 5mg
   .
   # FEN: IVFs / replete lytes prn / NPO for now
   # PPX: PPI not indicated, pneumoboots, bowel regimen
   # ACCESS: PIV
   # CODE:  Full
   # CONTACT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-10-27**] 01:26 AM
   18 Gauge - [**2172-10-27**] 01:27 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: